US07566698B2
The test substance was dissolved to 1 ml with 0.1 M acetate buffer adjusted to various pH levels, for concentrations of 0.3 M cellobiose and 0.2 M free ascorbic acid. A 50 μl portion of enzyme solution was added thereto for reaction at 37° C. for 40 hours. After the reaction, the (β-D-glucopyranosyl)ascorbic acid produced was analyzed by high performance liquid chromatography.

reactant | acetate | 0.1 M | C(C)(=O)[O-]
reactant | cellobiose | 0.3 M | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | ascorbic acid | 0.2 M | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
product | (β-D-glucopyranosyl)ascorbic acid | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)[C@]1(C(=C(C(=O)O1)O)O)[C@@H](O)CO | C12H18O11
